US04666916
(±)-[4R*,4aS*,10bR*]-4-(Aminomethyl)-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H[1]-benzopyrano[4,3-c]pyridine
To suspension of 0.305 g (±)-[4R*,4aS*,10bR*]-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-4-(phthalimidomethyl)-2H-[1]benzopyrano[4,3-c]pyridine in 40 ml MeOH, is added 0.102 ml hydrazine hydrate. The mixture is refluxed 12 hours, cooled, acidified to pH 1 with 12N HCl, and concentrated to a 3 ml volume under reduced pressure. The residue is partitioned between 10 ml 2N NaOH and CH2Cl2 (40 ml). The organic phase is dried over MgSO4, filtered, and evaporated to dryness in vacuo to yield the title compound; m.p. HCl salt 277°-279° dec.

reactant | (±)-[4R*,4aS*,10bR*]-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-4-(phthalimidomethyl)-2H-[1]benzopyrano[4,3-c]pyridine | 0.305 g | BrC1=CC(=CC2=C1OC[C@H]1[C@H]2CN(C[C@@H]1CN1C(C=2C(C1=O)=CC=CC2)=O)C)OC | C23H23BrN2O4
reactant | hydrazine hydrate | 0.102 ml | O.NN
reactant | HCl | 12N | Cl | ClH
solvent | MeOH | 40 ml | CO | CH4O
product | (±)-[4R*,4aS*,10bR*]-4-(Aminomethyl)-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H[1]-benzopyrano[4,3-c]pyridine | NC[C@H]1[C@@H]2[C@@H](CN(C1)C)C1=C(OC2)C(=CC(=C1)OC)Br | C15H21BrN2O2
